US07858640B2
2-[8-chloro-3-(4-chlorobenzyl)-2-difluoromethoxy-4-methylquinolin-5-yloxy]-2-methylpropionic Acid
A mixture of 2-[8-chloro-3-(4-chlorobenzyl)-2-difluoromethoxy-4-methylquinolin-5-yloxy]-2-methylpropionic acid methyl ester (0.030 g), tetrahydrofuran (2.0 mL) and 1.0 M aqueous lithium hydroxide solution (2.0 mL) was stirred at room temperature for 24 hours. The solvent was removed under reduced pressure, diluted with water and the pH adjusted to 4 by the addition of sodium dihydrogenphosphate. The mixture was extracted with ethyl acetate and the combined extracts dried over magnesium sulfate. The solvent was removed under reduced pressure to afford title compound, 0.027 g.

reactant | 2-[8-chloro-3-(4-chlorobenzyl)-2-difluoromethoxy-4-methylquinolin-5-yloxy]-2-methylpropionic acid methyl ester | 0.030 g | COC(C(C)(C)OC1=C2C(=C(C(=NC2=C(C=C1)Cl)OC(F)F)CC1=CC=C(C=C1)Cl)C)=O | C23H21Cl2F2NO4
reactant | lithium hydroxide | 1.0 M, 2.0 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 2-[8-chloro-3-(4-chlorobenzyl)-2-difluoromethoxy-4-methylquinolin-5-yloxy]-2-methylpropionic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)OC(F)F)CC1=CC=C(C=C1)Cl)C)OC(C(=O)O)(C)C | C22H19Cl2F2NO4
